* onsemi FGY75T120SWD Physical IGBT Model
* 1200V, 75A High-Field Stop Trench IGBT
* Nodes: Collector Gate Emitter
.SUBCKT FGY75T120SWD 1 2 3

* 1: Collector
* 2: Gate
* 3: Emitter

** 1. Core Power Transistor (Behavioral)
* Using an N-channel MOS as the core for switching logic
M1 10 20 3 3 IGBT_CORE
.model IGBT_CORE NMOS (LEVEL=1 VTO=5.5 KP=45 LAMBDA=0.01)

** 2. Static Resistance & Voltage Drops
* Collector-Emitter saturation voltage simulation
* Vce(sat) ≈ 1.7V at 75A
R_sat 1 10 0.022  ; Ron approximation

** 3. Dynamic Capacitances (Datasheet Values)
* Cies = 6331pF (Gate-Emitter + Gate-Collector)
* Cres = 29.6pF  (Gate-Collector)
* Coes = 234pF   (Collector-Emitter)

C_ge 2 3 6.3n    ; Gate-Emitter Capacitance
C_gc 2 1 30p     ; Gate-Collector (Miller) Capacitance
C_ce 1 3 230p    ; Collector-Emitter Capacitance

** 4. Gate Resistance (Internal)
R_gate 2 20 5    ; Internal gate resistance

** 5. Integrated Fast Recovery Diode (Body Diode)
* Rated for 75A, Vf ≈ 1.5V
D_body 3 1 Body_Diode
.model Body_Diode D(IS=1.5n N=1.6 RS=0.012 TT=50n)

.ENDS FGY75T120SWD
