* onsemi FGY75T120SWD - 1200V / 75A
* Physical Trench Field-Stop IGBT Model
* Nodes: 1(Collector) 2(Gate) 3(Emitter)
.SUBCKT FGY75T120SWD 1 2 3

* --- 1. CORE SWITCHING LOGICAL ---
M1 10 20 3 3 IGBT_CORE
.model IGBT_CORE NMOS (LEVEL=1 VTO=5.5 KP=45)

* --- 2. STATIC CHARACTERISTICS (Vce_sat) ---
* Internal resistance to create 1.7V Saturation drop
R_sat 1 10 0.022

* --- 3. DYNAMIC CAPACITANCES (Datasheet Values) ---
* These define your switching speed and heat
C_ge 2 3 6.3n    ; Gate-Emitter (Cies approx)
C_gc 2 1 30p     ; Gate-Collector (Miller/Cres)
C_ce 1 3 230p    ; Collector-Emitter (Coes)

* --- 4. INTERNAL GATE RESISTANCE ---
R_gate 2 20 6.5   ; Internal polysilicon resistance (6.5 Ohms)

* --- 5. INTEGRATED BODY DIODE (Datasheet Values) ---
* Rated for 75A, Vf ≈ 1.5V
* tt=50n (Reverse Recovery Time)
D_body 3 1 Body_Diode 
.model Body_Diode D(IS=1.5n N=1.6 RS=0.012 TT=50n)

.ENDS FGY75T120SWD

